US05206257
A mixture of 2-(2,6-dichloro-4-trifluoromethylphenyl)imidazole (5.62 g, 0.02 mol), nitric acid (70% w /w, 5.6 ml) and sulphuric acid (98% w /w, 5.6 ml) was stirred and heated at 70° C. for a total of 51 hours. After cooling the reaction mixture was poured into a mixture of ice and water (approximately 75 ml) and the precipitated solid was filtered off. It was purified by mplc on silica eluted with a mixture of ethyl acetate and dichloromethane (1:20) to give 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-nitroimidazole (4.21 g), m.p. 254°-255° C., as a cream crystalline solid.

reactant | 2-(2,6-dichloro-4-trifluoromethylphenyl)imidazole | 0.02 mol, 5.62 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)C=1NC=CN1 | C10H5Cl2F3N2
reactant | nitric acid | 5.6 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | 5.6 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | approximately 75 ml | O | H2O
product | 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-nitroimidazole | 4.21 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)C=1NC=C(N1)[N+](=O)[O-] | C10H4Cl2F3N3O2
